US05741788
B. 3-(3-Chloro-1,2,5-thiadiazol-4-yl)-4-methylpyridine
To a solution of 3-(3-chloro-1,2,5-thiadiazol-4-yl)-4-methyl-1-phenoxycarbonyl-1,4-dihydropyridine (11.7 g, 35 mmol) in decalin (100 ml) was added sulfur (1.4 g, 43 mmol) and the reaction mixture was refluxed for 5 h. After cooling to room temperature, ether (100 ml) was added and the organic phases extracted with 1N HCl (2×75 ml). The aqueous phase was basified with NaOH(aq) and extracted with methylene chloride (2×100 ml). The methylene chloride phase was dried and evaporated to give solid title material in 5.47 g (74%) yield.

reactant | 3-(3-chloro-1,2,5-thiadiazol-4-yl)-4-methyl-1-phenoxycarbonyl-1,4-dihydropyridine | 35 mmol, 11.7 g | ClC1=NSN=C1C1=CN(C=CC1C)C(=O)OC1=CC=CC=C1 | C15H12ClN3O2S
reactant | sulfur | 43 mmol, 1.4 g | [S] | S
reactant | ether | 100 ml | CCOCC | C4H10O
solvent | decalin | 100 ml | C1CCCC2CCCCC12 | C10H18
product | 3-(3-Chloro-1,2,5-thiadiazol-4-yl)-4-methylpyridine | ClC1=NSN=C1C=1C=NC=CC1C | C8H6ClN3S
